US07067517B2
Methyl-phenyl-carbamic acid 4-(4-trifluoromethyl-phenoxy)-phenyl ester
The title compound was prepared from 4-(4-trifluoromethyl-phenoxy)-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was purified by preparative HPLC (78%, white crystals). HPLC-MS m/z=388.0 (M+1), Rt: 5.59 min.

reactant | 4-(4-trifluoromethyl-phenoxy)-phenol | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-(4-trifluoromethyl-phenoxy)-phenyl ester | FC(C1=CC=C(OC2=CC=C(C=C2)OC(N(C2=CC=CC=C2)C)=O)C=C1)(F)F | C21H16F3NO3
